US08202868B2
d.1: 5-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-pentanimidic acid ethyl ester hydrochloride
1.5 g of 5-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-pentanenitrile (4.22 mmol) were dissolved in 40 ml of dichloromethane and 0.4 g of dry ethanol (8.7 mmol). Gaseous hydrochloric acid was introduced into the solution until saturation at 0° C. The reaction was stirred for 15 h at room temperature and concentrated to dryness. The resulting crude product (2.18 g) was directly used in the next reaction step.

reactant | 5-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-pentanenitrile | 4.22 mmol, 1.5 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCC#N)C1CCC1 | C21H33N5
reactant | ethanol | 8.7 mmol, 0.4 g | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 5-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-pentanimidic acid ethyl ester hydrochloride | Cl.C(C)OC(CCCCN1CCN(CC1)C1=NC(=NC(=C1)C1CCC1)C(C)(C)C)=N | InChI=1S/C23H39N5O.ClH/c1-5-29-20(24)11-6-7-12-27-13-15-28(16-14-27)21-17-19(18-9-8-10-18)25-22(26-21)23(2,3)4;/h17-18,24H,5-16H2,1-4H3;1H
